US04882330
1-[4-(4-Chloro-2-hydroxybutoxy)phenyl]ethanone
Utilizing the procedure of Preparation 16, 1,4-dichloro-2-butanol was reacted with 4-hydroxyacetophenone to give cream colored solid, m.p. 75°-77° C. Recrystallizing solvent was a mixture of ethanol-diethyl ether.

reactant | 1,4-dichloro-2-butanol | ClCC(CCCl)O | C4H8Cl2O
reactant | 4-hydroxyacetophenone | CC(=O)C=1C=CC(=CC1)O | C8H8O2
solvent | ethanol diethyl ether | C(C)O.C(C)OCC
product | 1-[4-(4-Chloro-2-hydroxybutoxy)phenyl]ethanone | ClCCC(COC1=CC=C(C=C1)C(C)=O)O | C12H15ClO3
